US07807840B2
Under an argon atmosphere, 1,2-dimethoxyethane (7.1 mL) was added to a solution of 4-bromo-1,2-methylenedioxybenzene (8.2 mL) in tetrahydrofuran (140 mL) under stirring at room temperature. Under stirring at −72° C., n-butyl lithium (a 1.57 mol/L hexane solution, 86.9 mL) was added dropwise to the resulting solution over 30 minutes. The resulting suspension was stirred at −50° C. or lower for 1 hour. Under stirring at −45° C., a solution of (R)-3,4-dipropyl-1,2,3-oxathiazolidine 2,2-dioxide (14.14 g) in tetrahydrofuran (34 mL) was added dropwise to the suspension over 20 minutes. The solution was stirred at 10° C. or lower for 2 hours. Water (200 mL) was added to the solution under stirring at room temperature, and the mixture was separated. To the aqueous layer was added concentrated hydrochloric acid (22.8 mL) and then diethyl ether (70 mL) under stirring at room temperature. After vigorous stirring at room temperature for 2 hours, the resulting two-layer solution was separated, and the ether layer was extracted with an aqueous 1 mol/L hydrochloric acid solution (200 mL). The aqueous layer was made basic with an aqueous 1 mol/L sodium hydroxide solution, and the organic layer and diethyl ether (100 mL) were added thereto. The organic layer was separated, washed with a saturated aqueous sodium chloride solution (30 mL), dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography (NH-DM1020, AcOEt/Hexane=1/9) to give (R)-1-(3,4-methylenedioxyphenyl)-2-propylaminopentane (8.00 g, 47% yield) as a yellow oil.

reactant | 1,2-dimethoxyethane | 7.1 mL | COCCOC | C4H10O2
reactant | 4-bromo-1,2-methylenedioxybenzene | 8.2 mL | BrC1=CC2=C(C=C1)OCO2 | C7H5BrO2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | (R)-3,4-dipropyl-1,2,3-oxathiazolidine 2,2-dioxide | 14.14 g | C(CC)N1S(OC[C@H]1CCC)(=O)=O | C8H17NO3S
solvent | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 34 mL | O1CCCC1 | C4H8O
solvent | Water | 200 mL | O | H2O
solvent | hexane | 1.57 mol/L | CCCCCC | C6H14
product | (R)-1-(3,4-methylenedioxyphenyl)-2-propylaminopentane | 8.00 g, 47% yield | C1OC=2C=C(C=CC2O1)C[C@@H](CCC)NCCC | C15H23NO2
